US07635711B2
To a solution of 10.5 mL (102.3 mmol) of 1-bromo-3,3,3-trifluoropropan-2-one in 100 mL of chloroform (passed through a pad of basic Al2O3) was added a solution of 10.4 g (149.7 mmol) of hydroxylamine hydrochloride in 20 mL of water and the mixture was warmed at reflux. After 24 hours, the mixture was cooled and the organic phase was separated. The aqueous layer was extracted with three 30 mL portions of methylene chloride. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 11.5 g (55.7%) of 3-bromo-1,1,1-trifluoropropan-2-one oxime as a mixture (3:2) of geometric isomers.

reactant | 1-bromo-3,3,3-trifluoropropan-2-one | 102.3 mmol, 10.5 mL | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | hydroxylamine hydrochloride | 149.7 mmol, 10.4 g | Cl.NO
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 20 mL | O | H2O
product | 3-bromo-1,1,1-trifluoropropan-2-one oxime | 11.5 g, 55.7% | BrCC(C(F)(F)F)=NO | C3H3BrF3NO
